US04902700
Synthesis of 4-isopropyl-2-(trans-3-nitrostyryl) thiazole
To 11.3 ml of acetic anhydride were added 29.0 g of 3-nitrobenzaldehyde and 27.1 g of 4-isopropyl-2-methylthiazole and the reaction was carried out under nitrogen gas stream at 170° C. for 23 hours. After completion of the reaction, low boiling materials were evaporated under reduced pressure and the residue was recrystallized from ethyl ether-n-hexane to give 16.8 g (yield 32%) of the title compound as yellowish white crystals.

reactant | acetic anhydride | 11.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-nitrobenzaldehyde | 29.0 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 4-isopropyl-2-methylthiazole | 27.1 g | C(C)(C)C=1N=C(SC1)C | C7H11NS
product | 4-isopropyl-2-(trans-3-nitrostyryl) thiazole | 16.8 g, yield 32% | C(C)(C)C=1N=C(SC1)\C=C\C1=CC(=CC=C1)[N+](=O)[O-] | C14H14N2O2S
